2113-03-28 07:11:00 Physician Resident Progress Note
Chief Complaint: 70F with h/o thyroid cancer, COPD, [**Hospital 2443**] nursing home
   resident, found by [**Hospital1 **] staff to be lethargic on morning of [**2113-3-27**]. O2
   sat was 84% on RA. Brought by EMS to [**Hospital1 5**] ED and found to be awake but
   confused but arousable and denied [**Doctor First Name **] pain.  She was hypotensive at
   65/34, and had a Foley placed that drained purulent material.
   Labs were notable for a leukocytosis to 15K, K of 6.3, creatinine of
   3.9, lactate of 1.7, troponin of 0.9.
   UA was positive for WBCs and bacteria.
   ECG showed ST depressions in anterior leads.
   Patient had a LIJ placed in ED and received vanc, levo, and
   ceftriaxone, and 3L NS.
   24 Hour Events:
 NASAL SWAB - At [**2113-3-27**] 09:20 PM mrsa swab
   [**3-27**] to [**3-28**]
   - Arrived in [**Hospital Unit Name 4**] and norepinephrine weaned from 0.3 to almost off.
   - Added ciprofloxacin for extra GNR coverage.
   - Repeat K and Cr were improved.
   - Repeat EKG improved from ED.
   - Spoke with son [**Name (NI) 768**] [**Name (NI) 6192**] (HCP): full ICU consent and full code.
   Mother has debilitating psychiatric disease and is not in contact with
   family.  She spent several years in [**Hospital3 3298**] "sitting in the
   dark, smoking many packs of cigarettes a day" before moving to nursing
   home two years ago.
   - Pt became progressively more aware and responsive overnight,
   especially with mention of talking to her son (and HCP) [**Name (NI) 768**] (aka
   "[**Doctor First Name **]").
   - At approximately 7am pt became tachycardic to 140s with BP 158/98
   while receiving a fluid bolus.
   Allergies:
   Alprazolam
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2113-3-27**] 06:21 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-3-28**] 02:00 AM
   Other medications:
   Flowsheet Data as of  [**2113-3-28**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**15**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 96 (92 - 106) bpm
   BP: 95/49(61) {71/22(36) - 160/89(95)} mmHg
   RR: 16 (9 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.6 kg (admission): 115 kg
    CVP: 7 (1 - 7)mmHg
   Total In:
                                                                  2,855 mL
                                                                  1,624 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                    855 mL
                                                                  1,564 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                  1,160 mL
   Urine:
                                                                  1,310 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,545 mL
                                                                    464 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   294 K/uL
   9.7 g/dL
   93 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.5 mEq/L
   41 mg/dL
   115 mEq/L
   146 mEq/L
   29.7 %
   10.0 K/uL
        [image002.jpg]  Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
                             [**2113-3-27**]  04:34 PM
                             [**2113-3-28**]  04:02 AM
   WBC
   10.0
   Hct
   29.7
   Plt
   294
   Cr
   3.0
   2.2
   TropT
   0.06
   0.05
   Glucose
   114
   93
   Other labs: PT / PTT / INR:16.9/30.9/1.5, CK / CKMB /
   Troponin-T:68/4/0.05, Lactic Acid:2.1 mmol/L,
   [1][image003.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [2][**2113-3-28**] 04:02AM
                                    10.0
                                    3.02*
                                    9.7*
                                    29.7*
                                     98
                                    32.2*
                                    32.8
                                    13.9
                                     294
   Source: Line-cvl; Random
   [3][**2113-3-27**] 10:12AM
                                    15.0*
                                    3.55*
                                    11.5*
                                    34.9*
                                     98
                                    32.4*
                                    33.0
                                    14.6
                                     383
   [4][image003.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Ct
                                   INR(PT)
   [5][**2113-3-28**] 04:02AM
   294
   Source: Line-cvl; Random
   [6][**2113-3-28**] 04:02AM
                                    16.9*
                                    30.9
   1.5*
   Source: Line-cvl; Random
   [7][**2113-3-27**] 10:12AM
   383
   [8][**2113-3-27**] 10:12AM
                                    13.6*
                                    27.0
   1.2*
   [9][image003.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [10][**2113-3-28**] 04:02AM
                                    93[1]
                                     41*
                                    2.2*
                                    146*
                                     3.5
                                    115*
                                     20*
                                     15
   Source: Line-cvl; Random
   [11][**2113-3-27**] 04:34PM
                                   114*[1]
                                     53*
                                    3.0*
                                     144
                                     3.9
                                    112*
                                     20*
                                     16
   Source: Line-R IJ
   [12][**2113-3-27**] 10:12AM
                                   126*[1]
                                     67*
                                    3.9*
                                     140
                                   6.3*[2]
                                     107
                                     21*
                                     18
   ESTIMATED GFR (MDRD CALCULATION)
                                   estGFR
   [13][**2113-3-27**] 10:12AM
                                Using this[1]
   1.        Using this patient's age, gender, and serum creatinine value
   of 3.9,
   Estimated GFR = 11 if non African-American (mL/min/1.73 m2)
   Estimated GFR = 14 if African-American (mL/min/1.73 m2)
   For comparison, mean GFR for age group 70+ is 75 (mL/min/1.73 m2)
   GFR<60 = Chronic Kidney Disease, GFR<15 = Kidney Failure
   [14][image003.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [15][**2113-3-28**] 04:02AM
   68[1]
   Source: Line-cvl; Random
   [16][**2113-3-27**] 04:34PM
   93[1]
   Source: Line-R IJ
   [17][**2113-3-27**] 10:12AM
                                     17
                                     23
   100[1]
                                     75
   0.3
   OTHER ENZYMES & BILIRUBINS
                                   Lipase
   [18][**2113-3-27**] 10:12AM
                                     39
   [19][image003.gif]   CPK ISOENZYMES
                                    CK-MB
                                   cTropnT
   [20][**2113-3-28**] 04:02AM
                                      4
                                  0.05*[1]
   Source: Line-cvl; Random
   [21][**2113-3-27**] 04:34PM
                                      3
                                  0.06*[1]
   Source: Line-R IJ
   [22][**2113-3-27**] 10:12AM
   0.09*[1]
   Hematology
   GENERAL URINE INFORMATION
                                    Type
                                    Color
                                   Appear
                                   Sp [**Last Name (un) **]
   [23][**2113-3-27**] 10:30AM
   Yellow
                                   Cloudy
                                    1.017
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [24][**2113-3-27**] 10:30AM
                                     SM
                                     NEG
                                     150
                                     NEG
                                     15
                                     NEG
                                     NEG
                                     6.0
                                     MOD
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [25][**2113-3-27**] 10:30AM
                                    [**4-7**]*
                                     >50
                                    MANY
                                    NONE
                                      0
   MISCELLANEOUS URINE
                                     Eos
   [26][**2113-3-27**] 09:01PM
                                POSITIVE [1]
   WHOLE BLOOD, MISCELLANEOUS CHEMISTRY
                                   Glucose
                                   Lactate
                                     Na
                                      K
   [27][**2113-3-27**] 04:48PM
   2.1*
   [28][**2113-3-27**] 10:17AM
                                    122*
                                     1.7
                                     142
                                   6.0*[1]
   Imaging: Final Report
   HISTORY: 70-year-old female with right internal jugular PICC line
   placement.
   COMPARISON: Preprocedure radiograph from two hours earlier, dated
   [**2113-3-27**] at
   10:10 a.m.
   FINDINGS: Single AP radiograph of the chest demonstrates a right
   internal
   jugular venous catheter with tip in the mid right atrium. Evaluation is
   limited, given the low lung volumes and patient rotation, with crowding
   of
   bronchovascular markings. There is no gross evidence of pneumonia or
   CHF.
   The cardiomediastinal silhouette appears unremarkable. Atherosclerotic
   calcification is noted along the aortic knob. The visualized osseous
   structures and soft tissues appear intact. Bibasilar atelectasis is
   present.
   Surgical clips are noted in the right upper quadrant.
   IMPRESSION: Right IJ catheter tip in the right atrium. Recommend
   retraction.
   This was discussed with Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] on [**2113-3-27**] at 12 p.m.
   DR. [**First Name (STitle) 11673**] HO
   DR. [**First Name8 (NamePattern2) 11674**] [**Name (STitle) **]
   Approved: MON [**2113-3-27**] 8:47 PM
   Microbiology:
   [**2113-3-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2113-3-27**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2113-3-27**]  URINE URINE CULTURE-PENDING EMERGENCY [**Hospital1 **]
   [**2113-3-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2113-3-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
   70F with dementia, COPD, thyroid cancer, [**Hospital1 **] resident, presenting with
   lethargy and found to have septic shock, likely of urinary origin, and
   ARF.  Was stable and off pressors overnight.  This morning became
   hypotensive to SBP in 70s and went into afib after levophed restarted
   and half of 1L fluid bolus received.  Currently back on pressors, but
   now phenylephrine, and going in and out of afib.
   # Septic shock/UTI.  Presumed urinary source with clearly positive UA
   in [**Hospital1 **] patient. Cardiac enzymes negative.  No evidence of pneumonia.
   No recent antibiotics per med sheets or diarrhea to suggest C.diff.
   Blood cultures and urine cultures pending.
   - obtain collateral info from [**Hospital1 **] and PCP and family.
   - consider alternative sources if no improvement evaluation - bloods
   pending, CXR without clear pneumonia; abdomen seems tender though
   denies pain; could consider imaging if not improving.
   - Maintain CVPs 8-12.
   - Continue phenylephrine (alpha 1 only) with Goal MAPs > 65.
   - Repeat lactate in today.
   - Monitor central venous sats with sepsis cath or labs, consider
   inotropes if < 70.
   - Antibiotics: Broadly cover urinary organisms with double GNR coverage
   - cefepime and cipro plus vanc for enterococcus;
   # ARF on CKD.  Has noted CKD per [**Hospital1 **] notes though baseline not clear.
   Was taking K supplements at [**Last Name (LF) **], [**First Name3 (LF) **] likely this represents some degree
   of acute insufficiency.  Simple prerenal from volume depletion/poor
   flow vs. ATN from ischemia most likely.  No reason for postobstructive
   process.
   - Consider renal US if no improvment on PM labs.
   - baseline creatinine.
   - Check urine lytes.
   - Repeat lytes this PM.
   - Management of hyperkalemia as below.
   - Avoid hypotension; bolus prn to maintain CVPs.
   .
   # Hyperkalemia.  Combination of ARF, K supplementation at [**Hospital1 **] in this
   setting, and [**Last Name (un) **] use.  No DKA or hyperosmolality present.
   - Monitor ECGs; Ca gluc prn K related changes.
   - Insulin and D50 for temporizing; expect total body K to improve with
   improvement in urine output.
   - Repeat lytes now.
   - Consider renal involvement if next K check not improved.
   .
   # Lethargy.  Likely due to systemic illness.  Nothing focal on exam to
   suggest focal CNS process.  Also on a number of sedating meds which may
   be affected by renal failure.
   - Consider head CT.
   - Management of septic shock as above.
   - Hold depakote, risperdone (partially renally cleared), wellbutrin,
   trazodone for now.  Check valproate level.
   .
   # ECG changes.  ST depressions in EKG in ED but this tracing most
   likely affected by poor lead positioning leading to early R wave
   transition.  Now with ST depressions more likely related to
   hypertrophy/IVCD.
   - Cycle enzymes.
   - Supportive care.
   - Consider ASA/statin if more significant elevation.
   .
   # Metabolic acidosis.  Likely related to renal failure, lactate only
   minimally elevated.
   - Continue to trend.
   - Aline today for pH.
   ICU Care
   Nutrition: NPO for now, repleting electrolytes.
   Glycemic Control:
   Lines: R IJMulti Lumen - [**2113-3-27**] 04:21 PM, 18 Gauge - [**2113-3-27**]
   04:22 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer:  H2B
   Communication:  Patient and son [**Name (NI) 768**] [**Name (NI) 6192**] [**Telephone/Fax (1) 11660**] cell,
   [**Telephone/Fax (1) 11661**] home.
   Code status: Full code as per son [**Name (NI) 225**].
   Disposition: Call out to floor in afternoon if pt continues to improve
   clinically.
References
   1. javascript:command('LHBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   4. javascript:command('LHBI','expand')
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   9. javascript:command('LCBA','expand')
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
  14. javascript:command('LCBD','expand')
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);
  19. javascript:command('LCBG','expand')
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);
  23. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);
  24. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);
  25. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);
  26. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);
  27. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
  28. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);

2113-03-28 08:57:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2113-3-27**] 04:21 PM
 NASAL SWAB - At [**2113-3-27**] 09:20 PM
   mrsa swab
   Continued off pressors overnight, was hemodynamically stable until
   early this am when her SBP dropped to 70's, given 1 L NS bolus and
   started back on pressors (neo)
   Went into atrial fibirllation in setting of hypotension, going in and
   out, no documented history of A-fib
   Clarified code status with son, full code
   Patient unable to provide history: dementia
   Allergies:
   Alprazolam
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2113-3-27**] 06:21 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-3-28**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-3-28**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**15**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 138 (92 - 139) bpm
   BP: 73/49(54) {71/22(36) - 160/98(165)} mmHg
   RR: 19 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.6 kg (admission): 115 kg
   CVP: 12 (1 - 16)mmHg
   Total In:
                                                                  2,855 mL
                                                                  1,729 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                    855 mL
                                                                  1,669 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                  1,280 mL
   Urine:
                                                                  1,310 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,545 mL
                                                                    449 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: dry mucus membranes, mouth breathing
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   294 K/uL
   93 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.5 mEq/L
   41 mg/dL
   115 mEq/L
   146 mEq/L
   29.7 %
   10.0 K/uL
        [image002.jpg]
                             [**2113-3-27**]  04:34 PM
                             [**2113-3-28**]  04:02 AM
   WBC
   10.0
   Hct
   29.7
   Plt
   294
   Cr
   3.0
   2.2
   TropT
   0.06
   0.05
   Glucose
   114
   93
   Other labs: PT / PTT / INR:16.9/30.9/1.5, CK / CKMB /
   Troponin-T:68/4/0.05, Lactic Acid:2.1 mmol/L, Ca++:7.3 mg/dL, Mg++:1.7
   mg/dL, PO4:2.5 mg/dL
   Microbiology: UCx:  >100K alpha hemolytic lactobacillus
   Assessment and Plan
 SHOCK, SEPTIC:  Now back on pressors.  Likely urinary tract source.
   Preliminary culture growing alpha hemolytic lactobacillus (latter
   likely contaminant).   Continue current broad spectrum antibiotics. WBC
   decreasing, lactate trending down.  Still hemodynamically unstable
   albeit afib likely contributing.  Enzymes trending down, no evident
   acute cardiac component.
 ATRIAL FIBRILLATION:  Likely contributing to earlier drop in blood
   pressure.  Now in sinus rhythm, autoconverted following fluid bolus.
   Check echo.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  More awake and alert this am.
 ANEMIA:  Hct drop likely dilutional given aggressive volume
   resusitation overnight.  Need to follow serial CBCs.  Guaiac stools.
 RENAL FAILURE, ACUTE ON CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE):  Likely component of prerenal vs. ATN in setting of
   sepsis and hypotension.  She does have persistent eos in UA, may have
   component of interstitial nephritis.  Will review med list and stop any
   that may be potentially contributing.  Cr trending down, now 2.2.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-3-27**] 04:21 PM
   18 Gauge - [**2113-3-27**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2113-03-29 10:43:00 Physician Attending Progress Note
Chief Complaint: hypotension, urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2113-3-28**] 10:42 AM
 TRANSTHORACIC ECHO - At [**2113-3-28**] 02:45 PM, no vegetations
 ARTERIAL LINE - START [**2113-3-28**] 04:14 PM, BP 20 points higher than
   noninvasive cuff
   Neo stopped
   Subsequently had episode of SBP in 80's responsive to IVF bolus 1 L NS,
   CVP prior to fluid challenge was 2
                                          History obtained from Patient
   Allergies:
   Alprazolam
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2113-3-27**] 06:21 PM
   Ceftriaxone - [**2113-3-28**] 09:10 AM
   Vancomycin - [**2113-3-28**] 10:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-3-29**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-3-29**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**15**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 101 (86 - 104) bpm
   BP: 107/82(94) {74/38(50) - 147/93(102)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.6 kg (admission): 115 kg
   CVP: 11 (2 - 11)mmHg
   Total In:
                                                                  4,921 mL
                                                                  1,091 mL
   PO:
                                                                     60 mL
                                                                    650 mL
   TF:
   IVF:
                                                                  4,861 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                    850 mL
   Urine:
                                                                  3,010 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,911 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.41/31/74/19/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   272 K/uL
   119 mg/dL
   1.5 mg/dL
   19 mEq/L
   3.1 mEq/L
   23 mg/dL
   117 mEq/L
   144 mEq/L
   25.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2113-3-27**]  04:34 PM
                             [**2113-3-28**]  04:02 AM
                             [**2113-3-28**]  03:33 PM
                             [**2113-3-28**]  04:54 PM
                             [**2113-3-29**]  03:32 AM
   WBC
   10.0
   10.9
   8.3
   Hct
   29.7
   29.5
   25.3
   Plt
   294
   316
   272
   Cr
   3.0
   2.2
   1.8
   1.5
   TropT
   0.06
   0.05
   TCO2
   20
   Glucose
   114
   93
   92
   119
   Other labs: PT / PTT / INR:16.9/30.9/1.5, CK / CKMB /
   Troponin-T:68/4/0.05, Lactic Acid:0.7 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC VS. HYPOVOLEMIA:   Off pressors since yesterday
   afternoon, hypotensive episode last night with low CVP, responsive to
   IVF challenge.  Urine growing stres viridans.  Blood cultures no growth
   to date.  WBC normal.  TTE did not show vegetations.  ID service to
   consult given this is an unusual bacteria in this setting.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Improved with treatment of
   infection.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE):  Secondary to sepsis, hypotension, probable component of
   ATN.  Cr continues to trend down..  Good urine output.
 ANEMIA:  Hct down to 25, likely dilutional. She has been guaiac
   negative.  Will repeat CBC this afternoon.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-3-27**] 04:21 PM
   18 Gauge - [**2113-3-27**] 04:22 PM
   Arterial Line - [**2113-3-28**] 04:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes